US04818273
Preparation of N-(2,6-dichloro-3-methylphenyl)-7-methoxy-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide
Sodium (0.6 g, 26 mmol) was added to about 40 ml of methanol and allowed to react. N-(2,6-dichloro-3-methylphenyl)-7-chloro-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide (2.5 g, 6.9 mmol) was added with stirring. After about 20 minutes, thin layer chromatography indicated the starting material had reacted. The solution was then acidified by adding 6N hydrochloric acid dropwise and then concentrated by evaporation under reduced pressure. The residue was triturated with water and the solid that formed was washed with water and dried to obtain 1.35 g of the title compound as a white solid, m.p. 239°-42° C.

reactant | Sodium | 26 mmol, 0.6 g | [Na] | Na
reactant | N-(2,6-dichloro-3-methylphenyl)-7-chloro-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 6.9 mmol, 2.5 g | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2Cl)C)=N1 | C13H10Cl3N5O2S
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | methanol | about 40 ml | CO | CH4O
product | N-(2,6-dichloro-3-methylphenyl)-7-methoxy-5-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 1.35 g | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2OC)C)=N1 | C14H13Cl2N5O3S
